US07635715B2
Step A: Preparation of 4-(3,4-Dichlorophenyl)-tetrahydro-2H-pyran-4-carbonitrile
3,4-Dichlorophenylacetonitrile (10.00 g, 53.8 mmol) and bis(2-bromoethyl)ether (12.5 g, 53.8 mmol) were dissolved in ether and added dropwise via addition funnel to a suspension of NaH (60% dispersion in mineral oil; 6.45 g, 161 mmol) in 1-methylpyrrolidone (108 mL) at 0° C. The reaction mixture was stirred at 0° C. for 1 hour and was then allowed to warm to ambient temperature. The reaction was then quenched with water. 5N HCl was added, and the reaction mixture was diluted with 200 mL of diethyl ether, added to a separatory funnel, washed 2 times with 100 mL of ether, separated, dried over Na2SO4, and concentrated in vacuo to give the purified title compound (7.97 g) after flash chromatography.

reactant | 3,4-Dichlorophenylacetonitrile | 53.8 mmol, 10.00 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | bis(2-bromoethyl)ether | 53.8 mmol, 12.5 g | BrCCOCCBr | C4H8Br2O
reactant | NaH | 161 mmol, 6.45 g | [H-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | 1-methylpyrrolidone | 108 mL | CN1C(CCC1)=O | C5H9NO
product | 4-(3,4-Dichlorophenyl)-tetrahydro-2H-pyran-4-carbonitrile | ClC=1C=C(C=CC1Cl)C1(CCOCC1)C#N | C12H11Cl2NO
